US07893056B2
2-Ethyl-5-fluoro-6-hydroxy-4(1H)-pyrimidinone (20 g, 126.6 mmol) in POCl3 (58 mL, 633 mmol) was heated at 125° C. (oil bath) for 2 h. An additional 68 mL of fresh POCl3 was added to the hot solution. The resulting solution was heated for an additional 2 h until all the starting material was consumed. The excess POCl3 was distilled (62° C.-68° C.) in vacuo to give a light brown residue. After being cooled to room temperature, the residue was diluted with 50 mL of CH2Cl2, then poured into ice water (200 mL). To this mixture was added 200 mL of CH2Cl2 and the subsequent mixture was stirred for 10 min. After separation of the two layers, the aqueous layer was further extracted with 100 mL of CH2Cl2. The combined organic layers were dried over Na2SO4, then filtered through a short silica gel pad, which was then washed with 150 mL of 1% MeOH in CH2Cl2. Evaporation of the solvent provided 4,6-dichloro-2-ethyl-5-fluoropyrimidine (21 g, 85%) as a light yellow liquid. LCMS: (M+H)+: not detected.

reactant | 2-Ethyl-5-fluoro-6-hydroxy-4(1H)-pyrimidinone | 126.6 mmol, 20 g | C(C)C=1NC(=C(C(N1)=O)F)O | C6H7FN2O2
reactant | POCl3 | 633 mmol, 58 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | POCl3 | 68 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
reactant | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4,6-dichloro-2-ethyl-5-fluoropyrimidine | 21 g, 85% | ClC1=NC(=NC(=C1F)Cl)CC | C6H5Cl2FN2
